US05994368
A mixture of ethyl 4-chloro-3,6-DIMETHYLQUINOLINE-2-carboxylate (3.0 g), triethylamine (2.4 ml) and 10% palladium on carbon (300 mg) in ethyl acetate (30 ml) was stirred for 4 hours at ambient temperature under hydrogen atmosphere. After filtration the filtrate was concentrated in vacuo and diluted with dichloromethane. The mixture was washed with saturated sodium bicarbonate solution and water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (dichloromethane-ethyl acetate) to give ethyl 3,6-dimethylquinoline-2-carboxylate.

reactant | ethyl 4-chloro-3,6-DIMETHYLQUINOLINE-2-carboxylate | 3.0 g | ClC1=C(C(=NC2=CC=C(C=C12)C)C(=O)OCC)C | C14H14ClNO2
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3,6-dimethylquinoline-2-carboxylate | CC=1C(=NC2=CC=C(C=C2C1)C)C(=O)OCC | C14H15NO2
